US08455483B2
a) Ethyl 2-(cyclopentanecarboxamido)-3-mercaptopropanoate
CDI (8.5 g) was added to a solution of cyclopentanecarboxylic acid (5.2 mL) in DMF (40 mL). The resulting mixture was stirred for 1 h and cooled in an ice bath. Ethyl 2-amino-3-mercaptopropanoate hydrochloride (8.88 g) was added, followed by triethylamine (10 mL). The resulting mixture was allowed to warm to RT and stirred overnight. The reaction was quenched with saturated sodium bicarbonate solution (50 mL) and the layers separated. The aqueous was extracted with DCM (2×100 mL). The combined organic solutions were washed with brine (100 mL), dried over sodium sulphate, filtered and evaporated. The resulting solid was purified by silica gel chromatography eluting with 4:1 to 1:1 isohexane:ethyl acetate gradient. The fractions containing the product were combined and evaporated to give the subtitled compound as a white solid. Yield 7.7 g.

reactant | CDI | 8.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopentanecarboxylic acid | 5.2 mL | C1(CCCC1)C(=O)O | C6H10O2
reactant | Ethyl 2-amino-3-mercaptopropanoate hydrochloride | 8.88 g | Cl.NC(C(=O)OCC)CS
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(cyclopentanecarboxamido)-3-mercaptopropanoate | C1(CCCC1)C(=O)NC(C(=O)OCC)CS | C11H19NO3S
